US06313119B1
b) (2S)-2-(2-(1,4,5,6-Tetrahydropyrimidin-2-ylcarbamoyl)-benzenesulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid tert-butyl ester
75 mg (0.13 mmol) of 2-((1S)-1-tert-butoxycarbonyl-2-(4-(2-methoxycarbonyl-ethyl)-benzoylamino)-ethylsulfamoyl)-benzoic acid methyl ester was dissolved in 1 ml of dimethylformamide and 68 mg (0.69 mmol) of 2-amino-1,4,5,6-tetrahydropyrimidine was added. The reaction was stirred at room temperature for 20 hours. The solvent was removed in vacuo and the residue was chromatographed on silica gel eluting with dichloromethane/methanol (1/1), followed by dichloromethane/methanol/acetic acid/water (85/15/1.5/1.5). Yield 54 mg. MS (ES+): m/e=683.3 (M+H+).

reactant | 2-((1S)-1-tert-butoxycarbonyl-2-(4-(2-methoxycarbonyl-ethyl)-benzoylamino)-ethylsulfamoyl)-benzoic acid methyl ester | 0.13 mmol, 75 mg | COC(C1=C(C=CC=C1)S(N[C@@H](CNC(C1=CC=C(C=C1)CCC(=O)OC)=O)C(=O)OC(C)(C)C)(=O)=O)=O | C26H32N2O9S
reactant | 2-amino-1,4,5,6-tetrahydropyrimidine | 0.69 mmol, 68 mg | NC=1NCCCN1 | C4H9N3
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | (2S)-2-(2-(1,4,5,6-Tetrahydropyrimidin-2-ylcarbamoyl)-benzenesulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid tert-butyl ester | C(C)(C)(C)OC([C@H](CNC(C1=CC=C(C=C1)CCC(NC=1NCCCN1)=O)=O)NS(=O)(=O)C1=C(C=CC=C1)C(NC=1NCCCN1)=O)=O | C32H42N8O7S
